US05945431
compound #4 N-(2-chlorobenzyl)-2-[1,6]naphthyridinecarboxamide
To a stirring mixture of 2-[1,6]naphthyridinecarboxylic acid (50 mg, 0.287 mmol) in anhy. DMF (5 ml) at room temperature was sequentially added 1-hydroxybenzotriazole hydrate (42.7 mg, 0.316 mmol), 2-chlorobenzylamine (54.7 μl, 95%., 0.43 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (60.6 mg, 0.316 mmol). The resulting mixture was allowed to stir at room temperature overnight and it was found to be clear. The solvent was removed under vacuum and the resulting residue was redissolved in CH2Cl2 (100 ml). The resulting mixture was allowed to stir at room temperature overnight and it was found to be clear. The solvent was removed under vacuum and the resulting residue was redissolved in CH2Cl2 (100 ml). The organic layer was washed with aq. Na(CO3, dried over anhy. MgSO4, and concentrated to give the crude mixture. Chromatography of the crude (Hex: EtOAc=1:1 to pure EtOAc) afforded desired product as white solid (83 mg, 97%): m.p. 120-121° C.

reactant | 2-[1,6]naphthyridinecarboxylic acid | 0.287 mmol, 50 mg | N1=C(C=CC2=CN=CC=C12)C(=O)O | C9H6N2O2
reactant | 1-hydroxybenzotriazole hydrate | 0.316 mmol, 42.7 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 2-chlorobenzylamine | 0.43 mmol, 54.7 μl | ClC1=C(CN)C=CC=C1 | C7H8ClN
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.316 mmol, 60.6 mg | Cl.CN(CCCN=C=NCC)C
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-(2-chlorobenzyl)-2-[1,6]naphthyridinecarboxamide | 83 mg, 97% | ClC1=C(CNC(=O)C2=NC3=CC=NC=C3C=C2)C=CC=C1 | C16H12ClN3O
